US07205411B2
To a solution of Cul (41 mg, 0.2 mmol) in triethylamine (12 ml) were added 2-bromo-4,6-dimethyl-pyridin-3-ylamine (870 mg, 4.33 mmol), (PPh3)2PdCl2 (152 mg, 0.22 mmol), and 1-ethynyl-3-fluorobenzene (500 μl, 4.33 mmol). The reaction mixture was stirred for 30 min. at room temperature and for 3 h under reflux. The solvent was evaporated and the crude residue was purified by flash chromatography (cyclohexane/ethyl acetate 4:1) to yield 745 mg (3.10 mmol, 72%) of (2-(3-fluoro-phenylethynyl)-4,6-dimethyl-pyridin-3-yl)amine as a brown solid.

reactant | 2-bromo-4,6-dimethyl-pyridin-3-ylamine | 4.33 mmol, 870 mg | BrC1=NC(=CC(=C1N)C)C | C7H9BrN2
reactant | 1-ethynyl-3-fluorobenzene | 4.33 mmol, 500 μl | C(#C)C1=CC(=CC=C1)F | C8H5F
solvent | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
catalyst | (PPh3)2PdCl2 | 0.22 mmol, 152 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (2-(3-fluoro-phenylethynyl)-4,6-dimethyl-pyridin-3-yl)amine | 3.10 mmol, 745 mg, 72% | FC=1C=C(C=CC1)C#CC1=NC(=CC(=C1N)C)C | C15H13FN2
